US08686044B2
Preparation of 2-chloro-N-(2,6-diiodo-4-(perfluoropropan-2-yl)phenyl)-3-nitrobenzamide
To a solution of 40.0 g (78.0 mmol) of 2,6-diiodo-4-(perfluoropropan-2-yl)aniline in 100 ml of DMI was added 20.6 g (94.0 mmol) of 2-chloro-3-nitrobenzoyl chloride, followed by stirring at 135° C. for 3 hours. After cooling to room temperature, the reaction mixture was poured into 1000 ml of water. After extraction with the addition of 1000 ml of ethyl acetate, the organic layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was washed with hexane to prepare 56.2 g (yield 99%) of a target compound.

reactant | 2,6-diiodo-4-(perfluoropropan-2-yl)aniline | 78.0 mmol, 40.0 g | IC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)I | C9H4F7I2N
reactant | 2-chloro-3-nitrobenzoyl chloride | 94.0 mmol, 20.6 g | ClC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C7H3Cl2NO3
reactant | water | 1000 ml | O | H2O
solvent | DMI | 100 ml | CN1CCN(C1=O)C | C5H10N2O
product | 2-chloro-N-(2,6-diiodo-4-(perfluoropropan-2-yl)phenyl)-3-nitrobenzamide | 56.2 g, yield 99% | ClC1=C(C(=O)NC2=C(C=C(C=C2I)C(C(F)(F)F)(C(F)(F)F)F)I)C=CC=C1[N+](=O)[O-] | C16H6ClF7I2N2O3
